US07470679B2
3-(Piperidin-4-yl)-1,8-naphthyridin-2(1H)-one dihydrochloride
Concentrated hydrochloric acid (25 mL, 305 mmol) was added with stirring to a mixture of tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(2-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate (14.0 g, 30.2 mmol) and water (75 mL). Reaction was heated to reflux and held for 25 hours. Mixture was concentrated in vacuo. Residue was crystallized from ethanol. Title compound was obtained as white solid in 33% yield. (M+H)+=230.2.

reactant | hydrochloric acid | 305 mmol, 25 mL | Cl | ClH
reactant | tert-butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(2-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate | 30.2 mmol, 14.0 g | OC(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C24H37N3O6
solvent | water | 75 mL | O | H2O
product | 3-(Piperidin-4-yl)-1,8-naphthyridin-2(1H)-one dihydrochloride | 33% yield | Cl.Cl.N1CCC(CC1)C=1C(NC2=NC=CC=C2C1)=O | InChI=1S/C13H15N3O.2ClH/c17-13-11(9-3-6-14-7-4-9)8-10-2-1-5-15-12(10)16-13;;/h1-2,5,8-9,14H,3-4,6-7H2,(H,15,16,17);2*1H
